US04390702
In the same manner as in Example 1, ethyl 3-methylpyruvate (1.0 g; 8.62 mmol) is dissolved in acetonitrile (22.5 g) and reacted with fluorine. By distilling off the solvent under reduced pressure, there is obtained a crude product, which is rectified to give ethyl 3-methyl-3-fluoropyruvate.

reactant | ethyl 3-methylpyruvate | 8.62 mmol, 1.0 g | CCC(C(=O)OCC)=O | C6H10O3
reactant | fluorine | FF | F2
solvent | acetonitrile | 22.5 g | C(C)#N | C2H3N
product | ethyl 3-methyl-3-fluoropyruvate | CC(C(C(=O)OCC)=O)F | C6H9FO3
